US04074046
When the above procedure is followed substituting an equivalent amount of 2,2'-azobis(5-chlorophenyl benzoate) for the o-nitrophenyl benzoate, 6-chloro-2-phenylbenzoxazole is obtained.

reactant | 2,2'-azobis(5-chlorophenyl benzoate) | N(=NC1=C(C(=O)[O-])C=CC=C1C1=CC=CC(=C1)Cl)C1=C(C(=O)[O-])C=CC=C1C1=CC=CC(=C1)Cl
reactant | o-nitrophenyl benzoate | C(C1=CC=CC=C1)(=O)OC1=C(C=CC=C1)[N+](=O)[O-] | C13H9NO4
product | 6-chloro-2-phenylbenzoxazole | ClC1=CC2=C(N=C(O2)C2=CC=CC=C2)C=C1 | C13H8ClNO
